* X:\taller-circuitos-tpi\CHECK 3\2024-10-27 prueba vref caso limite.asc
RL V2s 0 {RL}
VIN Vpos 0 6.35
R1f V2s retro 1k48
R2f retro N009 1k33
Rs V2s V1s {Ri}
Q3 N005 N005 N003 0 Q3_BC558B
Q5 N001 N005 N004 0 Q5_BC558B
Q2 N005 retro N010 0 Q2_BC548B
Q6 N001 Vref N010 0 Q6_BC548B
R3 Vpos N003 99.5
R4 Vpos N004 99.5
R1 Vpos N008 996
Q1 N008 N008 0 0 Q1_BC548B
Q4 N010 N008 0 0 Q4_BC548B
M1 V1s N001 Vpos Vpos irf9540npbf
V2 Vref 0 2.45
Q8 N001 N006 Vpos 0 Q8_BC558B
Q7 N006 0 0 0 Q7_BC548B
R17 Vpos N006 99.5k
C2 V2s N007 {CL}
C3 N002 N001 33n
R16 V2s N002 100
C4 Vpos N001 150p
C5 V2s retro 470p
R18 N007 0 0.3
C6 N006 P001 100p
R19 P001 N001 21.6
M2 N009 Vpos 0 0 2N7000
R2 N009 0 3K01
R5 Vpos 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\verof\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\verof\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.MODEL irf9540npbf PMOS LEVEL=1 IS=1e-32  L=100u W=100u VTO=-1.5 LAMBDA=0.00254531 KP=6.90462 CGSO=1.15995e-05 CGDO=1e-11
.param RL 6.6
.param CL 15u
.param RF=1.5k
* Punto de operación
.param Ri=0.1
#MODELO TRANSISTORES elegidos
.model Q3_BC558B PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=52.31 Bf=365 Ise=10.27f Ne=1.764 Ikf=91.85m Nk=.5351 Xtb=1.5 Br=6.48 Isc=1.472f Nc=1.294 Ikr=.5584 Rc=1.086 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5 Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=611.6p Itf=1.373 Xtf=26.05 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q5_BC558B PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=52.31 Bf=368 Ise=10.27f Ne=1.764 Ikf=91.85m Nk=.5351 Xtb=1.5 Br=6.48 Isc=1.472f Nc=1.294 Ikr=.5584 Rc=1.086 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5 Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=611.6p Itf=1.373 Xtf=26.05 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q8_BC558B PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=52.31 Bf=382 Ise=10.27f Ne=1.764 Ikf=91.85m Nk=.5351 Xtb=1.5 Br=6.48 Isc=1.472f Nc=1.294 Ikr=.5584 Rc=1.086 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5 Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=611.6p Itf=1.373 Xtf=26.05 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q1_BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=325 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q2_BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=340 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q4_BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=327 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q6_BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=340 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model Q7_BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=382 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
* .ac dec 10 1 100Meg\n.meas AC f1 FIND V(N004) WHEN mag(V(N004))=1 CROSS=1
* ;step param Cvar list  1n 2n 5n\n;param CL 15u\n.step param  CL list 1u 2.2u 15u\n#5v\n.param RL 10\n;step param RL list 6.5 6 3 2 0.01\n;step param RL list 4 4.3
.options gmin=1e-10
.options abstol=1e-10
.options reltol=0.003
.options cshunt=1e-15
* PR3:
* IR3:
* PR4:
* IR4:
.MODEL 2N7000 NMOS (LEVEL=1 VTO=2.1 KP=2.5m W=1u L=1u IS=1p RD=1.2 RS=1.2 CGSO=1.8n CGDO=0.01n)
.backanno
.end
