* Z:\home\tomardo\FIUBA Shared\Taller de Diseño de Circuitos Electronicos\taller-circuitos-tpi\CHECK 4\Simus\04_11_03_buck_simple_con_transistores.asc
L1 N004 N003 330µ
C1 N004 0 1µ
Vin N001 0 {Vin}
V§PWM1 N002 0 PULSE(0 50 0 0.1n 0.1n {Ts * D} {Ts})
V§PWM2 N005 0 PULSE(0 50 {Ts*D} 0.1n 0.1n {Ts*(1-D)} {Ts})
R1 N004 0 100
M1 N001 N002 N003 N003 irfz44n
M2 N003 N005 0 0 irfz44n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tomardo\Local Settings\Application Data\LTspice\lib\cmp\standard.mos
.param fs=200k
.param Ts=1/fs
.param D {6.35/Vin}
.param Vin 36
.tran 0 {1005*Ts} {1000*Ts}
.model mySW SW(Ron=0.1 Roff=10Meg Vt=7)
.include irfz44n.spi
.backanno
.end
